US04210648
11-[3-(Benzylamino)propionyl]-5,11-dihydro-6H-pyrido[2,3-b]-[1,4]benzodiazepin-6-one
6.0 gm of 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido [2,3-b]-[1,4]benzodiazepin-6-one, 2.3 gm of sodium carbonate and 4.4 gm of benzylamine were refluxed in 80 ml of ethanol for 4 hours. Then the hot mixture was suction-filtered, the alcohol was distilled off, and the residue was purified on a silica gel column. The evaporation residue of the eluate was recrystallized twice from n-propanol.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido [2,3-b]-[1,4]benzodiazepin-6-one | 6.0 gm | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | sodium carbonate | 2.3 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzylamine | 4.4 gm | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 11-[3-(Benzylamino)propionyl]-5,11-dihydro-6H-pyrido[2,3-b]-[1,4]benzodiazepin-6-one | C(C1=CC=CC=C1)NCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C22H20N4O2
